US04775753
(S)-N,N-Diethyl-2-mercaptopropionamide (171 g) dissolved in ethyl ether (500 cc) is added dropwise to a suspension of lithium aluminium hydride (42.6 g) in ethyl ether (1500 cc) in the course of 1 hour and 20 minutes. The reaction mixture is then maintained under reflux for 2 hours and 30 minutes and then cooled to a temperature in the vicinity of 0° C. Distilled water (49.8 cc) is then added so that the temperature of the mixture does not exceed 20° C., and 5N sodium hydroxide (36.6 cc) and distilled water (166 cc) are then added. The reaction mixture is filtered, the pH of the filtrate is adjusted to 8 by adding acetic acid (70 cc). The mixture obtained is filtered again, the filtrate is dried over sodium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the vicinity of 30° C. A yellow oil is obtained, which is purified by distillation under reduced pressure (1.3 kPa). (S)-1-Diethylamino-2-propanethiol (100 g) in the form of a colourless oil [b.p.1.3 kPa=55°- 56° C.; [α]D20 =+39.6° (c=5.6, CH3OH)] is thereby obtained.

reactant | (S)-N,N-Diethyl-2-mercaptopropionamide | 171 g | C(C)N(C([C@H](C)S)=O)CC | C7H15NOS
reactant | lithium aluminium hydride | 42.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 49.8 cc | O | H2O
solvent | ethyl ether | 500 cc | C(C)OCC | C4H10O
solvent | ethyl ether | 1500 cc | C(C)OCC | C4H10O
product | (S)-1-Diethylamino-2-propanethiol | 100 g | C(C)N(C[C@H](C)S)CC | C7H17NS
